US07709466B2
b) 2-(3-Methoxy-6-pyridin-4-yl-pyridazin-4-yl)-6-[1-(4-methyl-piperazin-1-yl)-ethyl]-indole-1-carboxylic acid tert-butyl ester
180 mg resin bound (2.57 mmol/g) sodium cyano borhydride are added to a solution of 80 mg 6-acetyl-2-(3-methoxy-6-pyridin-4-yl-pyridazin-4-yl)-indole-1-carboxylic acid tert-butyl ester, 22 mg N-methyl-piperazine and 0.062 ml acidic acid and the mixture stirred over night at 65° C. The crude product is isolated by filtration and evaporation of the solvent and is used without further purification.

reactant | 6-acetyl-2-(3-methoxy-6-pyridin-4-yl-pyridazin-4-yl)-indole-1-carboxylic acid tert-butyl ester | 80 mg | C(C)(C)(C)OC(=O)N1C(=CC2=CC=C(C=C12)C(C)=O)C1=C(N=NC(=C1)C1=CC=NC=C1)OC | C25H24N4O4
reactant | N-methyl-piperazine | 22 mg | CN1CCNCC1 | C5H12N2
product | 2-(3-Methoxy-6-pyridin-4-yl-pyridazin-4-yl)-6-[1-(4-methyl-piperazin-1-yl)-ethyl]-indole-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(=CC2=CC=C(C=C12)C(C)N1CCN(CC1)C)C1=C(N=NC(=C1)C1=CC=NC=C1)OC | C30H36N6O3
